* Component by Agustin Gullino, Electronics Engineering Student at ITBA
* email: agullino@itba.edu.ar

.subckt FDNR IN+ IN-
G1 IN+ IN- IN+ IN- Laplace=({D}*s**2)
C1 IN+ IN- 1f
.ends FDNR

